US09447090B2
A mixture of 1 g of tert-butyl[(1S)-1-(3-bromophenyl)ethyl]carbamate, 18 mg of bis(tri-tert-butylphosphine)palladium (0), 180 mg of zinc fluoride, 1 ml of [(1-methoxy-2-methylpropa-1-en-1-yl)oxy](trimethyl)silane, and 10 ml of DMF was stirred at 80° C. overnight and at 100° C. for 5 hours. 25 mg of bis(tri-tert-butylphosphine)palladium (0) and 0.34 ml of [(1-methoxy-2-methylpropa-1-en-1-yl)oxy](trimethyl)silane were added thereto, followed by stirring at 80° C. for 3 days. To the reaction mixture were added water and ethyl acetate to carry out a layer separation operation. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 281 mg of methyl 2-(3-{(1S)-1-[(tert-butoxycarbonyl)amino]ethyl}phenyl)-2-methylpropanoate.

reactant | tert-butyl[(1S)-1-(3-bromophenyl)ethyl]carbamate | 1 g | C(C)(C)(C)OC(N[C@@H](C)C1=CC(=CC=C1)Br)=O | C13H18BrNO2
reactant | [(1-methoxy-2-methylpropa-1-en-1-yl)oxy](trimethyl)silane | 1 ml | COC(=C(C)C)O[Si](C)(C)C | C8H18O2Si
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | [(1-methoxy-2-methylpropa-1-en-1-yl)oxy](trimethyl)silane | 0.34 ml | COC(=C(C)C)O[Si](C)(C)C | C8H18O2Si
reactant | water | O | H2O
catalyst | bis(tri-tert-butylphosphine)palladium | 18 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
catalyst | zinc fluoride | 180 mg | [F-].[Zn+2].[F-]
catalyst | bis(tri-tert-butylphosphine)palladium | 25 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-(3-{(1S)-1-[(tert-butoxycarbonyl)amino]ethyl}phenyl)-2-methylpropanoate | 281 mg | C(C)(C)(C)OC(=O)N[C@@H](C)C=1C=C(C=CC1)C(C(=O)OC)(C)C | C18H27NO4
